US05705669
50 g (1.09 mol) of absolute ethanol are cooled to -15° C. under a nitrogen atmosphere. 3 g (1.76 mol) of ammonia gas are then introduced at this temperature with constant stirring. 26 g (1.39 mol) of phenyl(isopropyl)chloro-phosphine are then added dropwise at this temperature in 30 minutes. The mixture is then stirred for a further 30 minutes at this temperature and then refluxed for a further 12 hours. The mixture is then cooled, filtered by suction and rinsed out with ethanol. The filtrate is freed from ethanol in vacuo and the remaining residue is distilled. 23 g of ethyl isopropyl(phenyl)phosphinite are obtained at 0.07 mbar and an overhead temperature of 50° C. This corresponds to a yield of 85% of theory.

reactant | ethanol | 1.09 mol, 50 g | C(C)O | C2H6O
reactant | ammonia | 1.76 mol, 3 g | N | H3N
reactant | phenyl(isopropyl)chloro-phosphine | 1.39 mol, 26 g | C1(=CC=CC=C1)P(Cl)C(C)C | C9H12ClP
product | ethyl isopropyl(phenyl)phosphinite | 23 g, yield of 85% | C(C)(C)P(OCC)C1=CC=CC=C1 | C11H17OP
